US07223772B1
tert-Butyl{4-[2-(3-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]phenyl}sulfonylcarbamate
A Mixture of 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide (0.1 g 0.23 mmol), di-tert-butyl dicarbonate (Aldrich) (0.066 g 0.3 mmol) and 4-dimethylaminopyridine (0.004 g 0.03 mmol) were stirred in dry DCM (10 ml) containing triethylamine (100 μl) under nitrogen at room temperature for 2 hr. The reaction mixture was washed with 2M hydrochloric acid (10 ml), water (10 ml) and dried (MgSO4). After removal of solvent the residues were purified by SPE chromatography, elution with cyclohexane:ethyl acetate (20:1) gave the title compound as a white solid (0.1 g 88%). MH+: 536

reactant | 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.23 mmol, 0.1 g | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
reactant | di-tert-butyl dicarbonate | 0.3 mmol, 0.066 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 0.004 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl{4-[2-(3-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]phenyl}sulfonylcarbamate | 0.1 g, 88% | C(C)(C)(C)OC(NS(=O)(=O)C1=CC=C(C=C1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)F)=O | C25H21F4N3O4S
